US06835745B2
4-Amino-3-trifluoromethylanisole
A solution of 4-nitro-3-trifluoromethylanisole (26 g, 120 mmol) in ethyl acetate (250 mL) was hydrogenated over 10% palladium on carbon (5.3 g) at 50 psi for 1.5 h. At this time, the solution was filtered through Celite and washed with ethyl acetate (250 mL). The filtrate was concentrated in vacuo to give the title compound (22 g, 97%) as an amber oil which was pure enough for further use.

reactant | 4-nitro-3-trifluoromethylanisole | 120 mmol, 26 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC)C(F)(F)F | C8H6F3NO3
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 5.3 g | [Pd] | Pd
product | 4-Amino-3-trifluoromethylanisole | 22 g, 97% | NC1=C(C=C(C=C1)OC)C(F)(F)F | C8H8F3NO
